US07074817B2
(1-Benzyl-6-phenyl-1H-indol-3-yl)(oxo)acetic acid
(1-Benzyl-6-phenyl-1H-indol-3-yl)(oxo)acetic acid was prepared from ethyl (1-benzyl-6-phenyl-1H-indol-3-yl)(oxo)acetate (1.90 g, 4.96 mmol), and potassium hydroxide (0.856 g, 15.3 mmol) in THF (20 mL) and water (20 mL), following the procedure described in Step 4 of Example 5. Crystallization from acetonitrile and drying for 8 hours at 70° C. yielded the title compound as a light yellow solid (1.23 g, 70%), mp: 210-212° C. (dec.). Mass spectrum (+ES, [M+H]+) m/z 356; 1 HNMR (500 MHz, DMSO-d6): δ 13.8-14.2 (br s, 1H), 8.7 (s, 1H), 8.25 (d, 1H, J=8.2 Hz), 7.9 (s, 1H), 7.65 (d, 2H, J=8.1 Hz), 7.6 (d, 1H, J=8.4 Hz), 7.45 (t, 2H, J=7.7 Hz), 7.3-7.35 (m, 5H), 7.25-7.3 (m, 1H), and 5.65 ppm (s, 2H).

reactant | ethyl (1-benzyl-6-phenyl-1H-indol-3-yl)(oxo)acetate | 4.96 mmol, 1.90 g | C(C1=CC=CC=C1)N1C=C(C2=CC=C(C=C12)C1=CC=CC=C1)C(C(=O)OCC)=O | C25H21NO3
reactant | potassium hydroxide | 15.3 mmol, 0.856 g | [OH-].[K+]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | water | 20 mL | O | H2O
product | (1-Benzyl-6-phenyl-1H-indol-3-yl)(oxo)acetic acid | 1.23 g, 70% | C(C1=CC=CC=C1)N1C=C(C2=CC=C(C=C12)C1=CC=CC=C1)C(C(=O)O)=O | C23H17NO3
